US04530978
(B1) Tert.-butyl N-vinylcarbamate
69 parts of vinyl isocyanate and 70 parts of ethyl acetate are initially taken in a reaction vessel equipped with a high-efficiency condenser (with cooling brine), a stirrer, a thermometer and a feed Vessel. 74 parts of tert.-butanol, 73 parts of ethyl acetate and 0.01% of dibutyl-tin dilaurate are added in the course of 1 hour at 40° C., after which the mixture is allowed to react for a further 10 hours at this temperature. A pale yellow clear solution is formed. Content of blocked isocyanate groups: 14.7%.

reactant | vinyl isocyanate | C(=C)N=C=O | C3H3NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tert.-butanol | C(C)(C)(C)O | C4H10O
reactant | dibutyl-tin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | brine | [Cl-].[Na+].O
product | Tert.-butyl N-vinylcarbamate | C(=C)NC(OC(C)(C)C)=O | C7H13NO2
